US07662832B2
Step 1: 2-benzylamino-3-nitropyridine
In accordance with the same procedures as in Step 1 of Preparation 4, except for using 2-chloro-3-nitropyridine and benzylamine, the titled compound was obtained as yellow solid. (Yield: 91%)

reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 2-benzylamino-3-nitropyridine | Yield: 91% | C(C1=CC=CC=C1)NC1=NC=CC=C1[N+](=O)[O-] | C12H11N3O2
